US04259309
Using a mixture of 1,155 g of tri-(2-ethylhexyl)-amine and 1,155 g of xylene (850 l/hr), 505.4 kg of 9.85 percent strength hydrochloric acid containing sodium chloride (250 ml/hr) were extracted in counter-current at 50° C. in the course of 1,913 hours. The extract was subjected to hydrochloride cleavage in the cleavage column at 148°-152° C.; it gave a total of 46.9 kg of hydrogen chloride, of which about one-third was obtained as concentrated hydrochloric acid, alongside hydrogen chloride gas. Since the cleavage takes place virtually quantitatively, an extraction rate of 94.2% can be calculated from the stated amount of HCl. To regenerate the amine, 100 ml per hour of the bottom product from the cleavage column were constantly passed over the adsorption column filled with aluminum oxide. After completion of the example, 1.036 g out of the 1,155 g of tri-(2-ethylhexyl)-amine employed were recovered unchanged; this corresponds to a loss of 119 g or 10.3% relative to amine employed. In addition, di-(2-ethyl-hexyl)-amine in an amount corresponding to 40 g of tertiary amine preparable therefrom could be isolated from the regeneration process. If this is taken into account, the amine loss is reduced to 6.8%. Relative to hydrogen chloride produced, the amine loss is calculated to be 0.17%.

reactant | HCl | Cl | ClH
reactant | aluminum oxide | [O-2].[Al+3].[O-2].[O-2].[Al+3]
reactant | tri-(2-ethylhexyl)-amine | 1,155 g | C(C)C(CN(CC(CCCC)CC)CC(CCCC)CC)CCCC | C24H51N
product | di-(2-ethyl-hexyl)-amine | C(C)C(CNCC(CCCC)CC)CCCC | C16H35N
